US04515799
2-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-5-methyl-1,3,4-thiadiazole
A mixture of 1-acetyl-2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetylhydrazine (1.50 g) and Lawesson's reagent (1.18 g) in acetonitrile (50 ml) was stirred at room temperature for 24 hours and then evaporated. The residue was purified by chromatography on silica (t.l.c. grade, 20 g) using dichloromethane plus 40% v/v n-hexane followed by dichloromethane plus 0-1% v/v methanol as eluant. Appropriate fractions were combined and evaporated and residual oil triturated with diethyl ether. The resulting solid was collected, washed with diethyl ether and dried to give the title compound (0.82 g), m.p. 140°-144° C.

reactant | 1-acetyl-2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}acetylhydrazine | 1.50 g | C(C)(=O)N(N)C(COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)=O | C22H25Cl2N3O7
reactant | Lawesson's reagent | 1.18 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-5-methyl-1,3,4-thiadiazole | 0.82 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC=1SC(=NN1)C)C(=O)OCC | C22H23Cl2N3O5S
